US07544835B2
Dimethyl 2-[3-({[(2,4-difluoroanilino)carbonyl]-oxy}methyl)-4-ethoxybenzyl]malonate
Using dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate and 2,4-difluorophenylisocyanate, the title compound was obtained in the same manner as described in Example 192b)

reactant | dimethyl 2-[4-ethoxy-3-(hydroxymethyl)benzyl]-malonate | C(C)OC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)CO | C15H20O6
reactant | 2,4-difluorophenylisocyanate | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
product | Dimethyl 2-[3-({[(2,4-difluoroanilino)carbonyl]-oxy}methyl)-4-ethoxybenzyl]malonate | FC1=C(NC(=O)OCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2OCC)C=CC(=C1)F | C22H23F2NO7
